US07198941B2
Preparation of 2-acetamido-2-deoxy-1-hydroxy-β-D-glucose triacetate
Enzymatic hydrolysis: The beads containing immobilized lipase as obtained above were placed in the reactor and the solution of 10 g of 2-acetamido-2-deoxy-β-D-glucose tetracetate in 250 ml of 0.1 M tris-HCl buffer of pH 7.5 containing 10% dimethyl sulfoxide was recycled using an assembly as described in FIG. 1 till all the starting material was hydrolyzed. After the reaction, the reactants were drained and extracted with ethyl acetate {3×50 ml). The product, 2-acetamido-2-deoxy-1-hydroxy-β-D-glucose triacetate, was recovered (8.5 g) as a sticky gum after removal of ethyl acetate by evaporation. 1H NMR (CDCl3): δ 6.22 (d, 1H, NHα, j=10 Hz), 5.77 (d, 1H, NHβ, j=8.6 Hz), 5.32 (t, 1H, H3α, j=9.4 Hz), 5.22 (d, 1H, H1 α, j=4 Hz), 5 13 (dt, 2H, j=9), 4.74 (d, 1H, H1β, j=8.4 Hz), 4.38–3.91(m, 4H), 3.77–3.68 (m, 1H), 2.10 (s, 3H, acetyl), 2.09 (s, 3H, acetyl), 2.02 (s, 3H, acetyl). 1.97 (s, 3H, acetyl). 13C NMR (CDCl3) 91.60, 71.30, 68.70, 67.45, 62.49, 52.58 ppm. [α]23 D=+49.1 (c 1, CHCl3).

reactant | 2-acetamido-2-deoxy-β-D-glucose tetracetate | 10 g | C(C)(=O)O[C@H]1[C@@H]([C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)NC(C)=O | C16H23NO10
reactant | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 2-acetamido-2-deoxy-1-hydroxy-β-D-glucose triacetate | C(C)(=O)O.C(C)(=O)O.C(C)(=O)O.C(C)(=O)N[C@H]1C(O)(O[C@@H]([C@H]([C@@H]1O)O)CO)O | InChI=1S/C8H15NO7.3C2H4O2/c1-3(11)9-7-6(13)5(12)4(2-10)16-8(7,14)15;3*1-2(3)4/h4-7,10,12-15H,2H2,1H3,(H,9,11);3*1H3,(H,3,4)/t4-,5-,6+,7-;;;/m1.../s1
